US08835449B2
tert-Butyl (2-(2-(6-(2,4-dimethoxyphenyl)-4-oxo-2-thioxo-3,4-dihydropyrimidin-1(2H)-yl)acetamido)ethyl)carbamate
To a solution of 2-(6-(2,4-dimethoxyphenyl)-4-oxo-2-thioxo-3,4-dihydropyrimidin-1(2H)-yl)acetic acid (40 g, 124 mmol) in DMF (300 mL) was added tert-butyl (2-aminoethyl)carbamate (40 g, 250 mmol) and pyridine (30 mL), and the mixture was stirred at room temperature for 15 minutes. The solution was cooled to 0° C. and it was purged with nitrogen gas for 3 times. After 10 minutes, a 50% solution of T3P in DMF (109 mL) was added drop-wise at 0° C., and stirring was continued for 1 hour, whereupon the water/ice bath was removed and stirring was continued for 4 hours. The reaction solution was slowly poured into a stirring solution of aqueous HCl solution (2500 mL, 0.5 M), and the suspension was stirred at room temperature for 1 hour. The formed solid was filtered, and the filter cake was washed with 0.5M HCl solution (500 mL) followed by water (500 mL). The solid was dried in the vacuum oven at 50° C. for 20 hours to give 54.6 g of light beige powder. This solid was suspended in EtOAc (500 mL), heated to 70° C. under a stream of nitrogen gas with stirring for 1 hour, and then at room temperature for 18 h. The suspension was cooled down to 0° C., and the solid was filtered, the filter cake washed with cold (0° C.) EtOAc (100 mL) and dried in the vacuum oven at 50° C. for 9 hours to give 49.0 g of off-white solid. This solid was suspended in acetonitrile (300 mL), and stirred at 70° C. under a stream of nitrogen for 18 h. The mixture was cooled to 0° C., and the resultant solid was filtered, washed with cold acetonitrile (50 mL) and dried in the vacuum oven at 50° C. for 8 hours to give 46.5 g of off-white solid. This solid was suspended in EtOAc (350 mL), heated to 70° C. under a stream of nitrogen gas with stirring for 1 hour, and then at room temperature for 18 h. The suspension was cooled down to 0° C., and the solid was filtered, the filter cake washed with cold (0° C.) EtOAc (50 mL) and dried in the vacuum oven at 50° C. for 9 hours to give the title compound (45.4 g, 78.8%) as an off-white powder.

reactant | 2-(6-(2,4-dimethoxyphenyl)-4-oxo-2-thioxo-3,4-dihydropyrimidin-1(2H)-yl)acetic acid | 124 mmol, 40 g | COC1=C(C=CC(=C1)OC)C1=CC(NC(N1CC(=O)O)=S)=O | C14H14N2O5S
reactant | tert-butyl (2-aminoethyl)carbamate | 250 mmol, 40 g | NCCNC(OC(C)(C)C)=O | C7H16N2O2
reactant | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
product | tert-Butyl (2-(2-(6-(2,4-dimethoxyphenyl)-4-oxo-2-thioxo-3,4-dihydropyrimidin-1(2H)-yl)acetamido)ethyl)carbamate | 49.0 g | COC1=C(C=CC(=C1)OC)C1=CC(NC(N1CC(=O)NCCNC(OC(C)(C)C)=O)=S)=O | C21H28N4O6S
